US07910617B2
(3b) (2R)-2-t-Butoxycarbonylamino-2-methyl-4-(1-ethylpyrrol-2-yl)-1-n-hexanoyloxy-3-butene
(1-Ethylpyrrol-2-yl)methyltriphenylphosphonium iodide (19.8 g, 39.8 mmol) obtained in Reference example 3 (3a) was suspended in tetrahydrofuran,(100 mL) and a solution of potassium t-butoxide (4.47 g, 39.8 mmol) in tetrahydrofuran (70 mL) was added thereto under ice-cooling with stirring over 30 minutes, followed by further stirring of the mixture under ice-cooling for 1 hour and 30 minutes. Then, a solution of (2S)-2-t-butoxycarbonylamino-1-n-hexanoyloxy-2-methyl-3-propanal (10.0 g, 33.2 mmol) obtained in Reference example 1 (1b) in tetrahydrofuran (50 mL) was added to the mixture over 30 minutes and the mixture was stirred under ice-cooling for 1 hour and 30 minutes. A saturated aqueous ammonium chloride solution was added to the reaction mixture to stop the reaction and the temperature of the mixture was returned to room temperature. The mixture was concentrated under reduced pressure and water and ethyl acetate were added thereto to separate it. The thus obtained organic phase was separated, washed with water and a saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate, 4:1) to obtain the title compound (11.7 g, yield: 90%).

reactant | (1-Ethylpyrrol-2-yl)methyltriphenylphosphonium iodide | 39.8 mmol, 19.8 g | [I-].C(C)N1C(=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 39.8 mmol, 4.47 g | CC(C)([O-])C.[K+]
reactant | (2S)-2-t-butoxycarbonylamino-1-n-hexanoyloxy-2-methyl-3-propanal | 33.2 mmol, 10.0 g | C(C)(C)(C)OC(=O)N[C@@](COC(CCCCC)=O)(C=O)C | C15H27NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2R)-2-t-Butoxycarbonylamino-2-methyl-4-(1-ethylpyrrol-2-yl)-1-n-hexanoyloxy-3-butene | 11.7 g, yield: 90% | C(C)(C)(C)OC(=O)N[C@@](COC(CCCCC)=O)(C=CC=1N(C=CC1)CC)C | C22H36N2O4
